US07935715B2
To a solution of 1.1 g (4.1 mmol) of 2-(4-cyano-2-fluoro -phenylsulfanyl)-2-methyl-propionic acid ethyl ester in THF (50 mL) were added 1.58 g (12.3 mmol) of potassium trimethylsilanolate. The reaction was stirred at room temperature for 3 h. The solvent was removed under reduced pressure. The residue was partitioned between DCM (50 mL) and water (50 mL). The aqueous layer was acidified with 1 M aqueous HCl solution and extracted with DCM (4×50 mL). The combined organic extracts were dried over Na2SO4, filtered and the filtrate concentrated under reduced pressure to afford 1.04 g of 2-(4-cyano-2-fluoro-phenylsulfanyl)-2-methyl-propionic acid.

reactant | 2-(4-cyano-2-fluoro -phenylsulfanyl)-2-methyl-propionic acid ethyl ester | 4.1 mmol, 1.1 g | C(C)OC(C(C)(C)SC1=C(C=C(C=C1)C#N)F)=O | C13H14FNO2S
reactant | potassium trimethylsilanolate | 12.3 mmol, 1.58 g | C[Si]([O-])(C)C.[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(4-cyano-2-fluoro-phenylsulfanyl)-2-methyl-propionic acid | 1.04 g | C(#N)C1=CC(=C(C=C1)SC(C(=O)O)(C)C)F | C11H10FNO2S
